US04062966
A solution of 1-(5-chloro-2-thienyl)-2-(1-imidazolyl) ethanol (1.1 g, 4.8 mmole) dissolved in dry tetrahydrofuran (10 ml) was added to a stirred suspension of sodium hydride (0.4 g, as 80% dispersion in oil, 16 mmole) in dry tetrahydrofuran (40 ml). After stirring for 1 hour at room temperature the mixture was cooled in ice and a solution of 2-bromomethyl-3-chloro-thiophene (1.0 g, 4.7 mmole) in dry tetrahydrofuran (10 ml) was added dropwise. The mixture was allowed to stir for a further 1 hour at 15° C and the solvent then removed under vacuum. The residue was extracted several times with diethyl ether and the etheral extracts were combined and evaporated. The residue was taken up in a little diethyl ether and treated with a solution of hydrogen chloride in diethyl ether to precipitate a gum which solidified on trituration with acetone and ether. Recrystallization from a mixture of acetone, methanol and diisopropyl ether gave 1-[2-(5 -chloro-2-thienyl)-2-(3-chloro-2-thienyl methoxy)ethyl]imidazole hydrochloride as a white solid (0.5 g, 32%) m.p. 120°-121° C. (Found: C, 41.6; H, 3.35; N, 6.9. C14H12N2Cl2OS2. HCl requires C, 42.5; H, 3.3; N, 7.1%).

reactant | 1-(5-chloro-2-thienyl)-2-(1-imidazolyl) ethanol | 4.8 mmole, 1.1 g | ClC1=CC=C(S1)C(CN1C=NC=C1)O | C9H9ClN2OS
reactant | sodium hydride | 16 mmole, 0.4 g | [H-].[Na+]
reactant | 2-bromomethyl-3-chloro-thiophene | 4.7 mmole, 1.0 g | BrCC=1SC=CC1Cl | C5H4BrClS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[2-(5 -chloro-2-thienyl)-2-(3-chloro-2-thienyl methoxy)ethyl]imidazole hydrochloride | 0.5 g, 32% | Cl.ClC1=CC=C(S1)C(CN1C=NC=C1)OCC=1SC=CC1Cl | InChI=1S/C14H12Cl2N2OS2.ClH/c15-10-3-6-20-13(10)8-19-11(7-18-5-4-17-9-18)12-1-2-14(16)21-12;/h1-6,9,11H,7-8H2;1H
